Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Pericardial Tamponade
 
Major Surgical or Invasive Procedure:
Pericardial drain (___)

 
History of Present Illness:
___ yo M with ESRD on HD (MWF), HTN, HLD, recent dx of 
cricopharyngeal hypertrophy with placement of G-tube for feeding 
(admitted to ___ ___ to ___, and a recent admission at 
___ for a pneumonia who presented today from ___ due to 
hypotension. 

Patient was in his usual state of health before this morning. 
This morning, after he got ready for his day and was sitting 
down, his vision became blurry. He denied: fainting, headache, 
chest pain, SOB, abdominal pain, bowel or bladder problems, one 
sided muscle weakness, or troubles speaking. Because he was 
worried about his blurred vision, he called for his nurse who 
checked his blood pressures who noted his SBP to be in the ___. 
He was then taken to ___ ED. 

In the ED 
#initial vitals were:  
 -___ 23 91% Nasal Cannula 
#EKG:
Afib with HR 121; left axis deviation c/w LAFB. TWI II, III, 
aVF. T-wave flattening in V4-V6. 
#Labs/studies notable for:  
 - WBC 6.2 H/H 5.7/18.7 Plt 172
 - 138 3.3 ___ 4.5 99
 - ___ 15.5 PTT 26.8 INR 1.4
#Patient was given:  
 - 1L NS
#Vitals on transfer: 
 - 97.8 118 75/52 20 100% Nasal Cannula 

On arrival to the CCU: no chest pain, no blurred vision, no 
headache, no sob, no abdominal pain. Confirms some coughing with 
phlegm production. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension (+)
2. CARDIAC HISTORY  
- cath in ___ mild coronary disease 
- echo ___ LVEF >55% 
- sinus rhythm 
3. OTHER PAST MEDICAL HISTORY  
-ESRD on HD MWF  
-Gout  
-Erectile dysfunction  
-Cricopharyngeal hypertonicity/hypertrophy
-C4-C5 diffuse idiopathic skeletal hyperostosis (DISH)
-Left subclavian steal syndrome
-Gastritis 

 
Social History:
___
Family History:
-Denies family hx of CAD, MI, CVA, kidney disease, cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
GENERAL: alert and answers questions appropriately, nontoxic 
appearance
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
NECK: Supple. JVP to jaw at 45 degrees 
CARDIAC: Regular rate and rhythm. S1 obscured with loud s2. 
Systolic murmur II/VI best heard at ___. 
LUNGS: No chest wall deformities or tenderness. LL base dull to 
auscultation with crackles noted on RL base
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAM
============================
VS: 97.8 129 / 61 78 20 96 RA 
GENERAL: alert and answers questions appropriately, nontoxic 
appearance
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
NECK: Supple. 
CARDIAC: Regular rate and rhythm. S1 obscured with loud s2. 
Systolic murmur II/VI best heard at ___. 
LUNGS: No chest wall deformities or tenderness. LL base dull to 
auscultation with crackles noted on RL base
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION/PERTINENT LABS
========================
___ 04:02PM BLOOD WBC-6.2 RBC-1.97*# Hgb-5.7*# Hct-18.7* 
MCV-95 MCH-28.9 MCHC-30.5* RDW-16.0* RDWSD-55.7* Plt ___
___ 04:02PM BLOOD Neuts-77.4* Lymphs-10.0* Monos-11.7 
Eos-0.3* Baso-0.0 Im ___ AbsNeut-4.82 AbsLymp-0.62* 
AbsMono-0.73 AbsEos-0.02* AbsBaso-0.00*
___ 04:02PM BLOOD ___ PTT-26.8 ___
___ 04:02PM BLOOD Glucose-99 UreaN-27* Creat-4.5*# Na-138 
K-3.3 Cl-107 HCO3-18* AnGap-16
___ 11:15AM BLOOD Calcium-8.8 Phos-2.9 Mg-2.0
___ 07:13PM BLOOD TSH-2.7
___ 07:13PM BLOOD Free T4-1.1
___ 07:13PM BLOOD HIV Ab-Negative
___ 05:26PM OTHER BODY FLUID TNC-1788* Hct,Fl-12* Polys-62* 
Lymphs-21* Monos-6* Eos-2* Macro-9*

STUDIES
=======
Pericardial fluid cytology ___ NEGATIVE FOR MALIGNANT CELLS

Cath lab report ___: Opening pressure was 15-18 mm Hg. Bloody 
fluid was drained totalling 780 cc. The patients HR dropped into 
normal range and blood pressure rose at the end of the pressure. 
Bedside echo confirmed no further pericardial fluid. Cardiac 
tamponade, s/p successful pericardiocentesis via subxyphoid 
approach. Drain left in place.

TTE ___
The estimated right atrial pressure is ___ mmHg. Overall left 
ventricular systolic function is normal (LVEF>55%). The right 
ventricle appears normal sized with borderline normal free wall 
function. There is abnormal septal motion/position. There is a 
small pericardial effusion. The effusion appears 
circumferential. The effusion is echo dense, consistent with 
blood, inflammation or other cellular elements. There are no 
echocardiographic signs of tamponade. IMPRESSION: Small 
circumferential pericardial effusion without echocardiographic 
evidence of tamponade. A left pleural effusion is present. 
Compared with the prior study (images reviewed) of ___, 
the size of the pericardial effusion is smaller; the effusion 
appears to have echodense elements. Right ventricular systolic 
function now appears borderline.  

CXR ___
New drain is seen projecting over the left heart border.  Heart 
size is 
prominent.  There has been increase in the moderate left-sided 
pleural 
effusion.  The right lung appears clear.  There are no 
pneumothoraces. Pigtail catheter projects over the upper 
abdomen. 

TTE ___
The estimated right atrial pressure is ___ mmHg. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. There is no pericardial 
effusion. IMPRESSION: A left pleural effusion is present. 1) No 
pericardial effusion visualized. Compared with the prior study 
(images reviewed) of ___, prior pericardial effusion no 
longer seen.  

DISCHARGE LABS
==============
___ 06:50AM BLOOD WBC-7.1 RBC-3.08* Hgb-9.1* Hct-27.5* 
MCV-89 MCH-29.5 MCHC-33.1 RDW-16.6* RDWSD-54.0* Plt ___
___ 06:50AM BLOOD Glucose-80 UreaN-30* Creat-5.5*# Na-136 
K-4.2 Cl-94* HCO3-28 AnGap-18
___ 06:50AM BLOOD Calcium-8.7 Phos-2.4* Mg-2.0

MICRO
=====
Pericardial fluid ___ no PMNs, no micoorganisms, no growth in 
fluid/anaerobic/fungal cultures, AFB smear negative, acid fast 
culture pending, viral culture prelim no virus isolated

 
Brief Hospital Course:
___ yo M with ESRD on HD (MWF), HTN, HLD, recent dx of 
cricopharyngeal hypertrophy with placement of G-tube for feeding 
(admitted to ___ ___ to ___, and a recent admission at 
___ for a pneumonia who presented today from ___ due to 
hypotension found to have tamponade now s/p pericardial drain 
and removal in stable condition

# CORONARIES: ___: LM 20% proximal stenosis, LAD normal, LCx 
without significant disease, dominant RCA 30% stenosis in 
midportion
# PUMP: ___ LVEF >55%
# RHYTHM: Sinus
 
#Pericardial Tamponade: Was noted on last admission on ___ 
having moderate sized, circumferential pericardial effusion with 
preferential fluid deposition inferolateral to the left 
ventricle new from ___. Given HDS, was discharged with plans 
for repeat echo on outpatient basis. For this admission, found 
to be hypotensive at ___ and was transferred to ___. 
Bedside echo in the ED revealed significant fluid in pericardium 
with RV wall collapse, consistent with tamponade. Was taken to 
the cath lab s/p pericardiocentesis w/ subsequent pericardial 
drain placement (___). Opening pressure 15-18mm Hg. Was 
noted to have drained approximately 780cc of bloody fluid with 
improvement in hemodynamics. Repeat echo did not reveal further 
pericardial effusions. Hemorrhagic effusions concerning for 
malignancy vs uremia vs infectious. Negative for malignant cells 
and cultures negative to date in pericardial fluid. ___ be 
reactive in setting of recent pneumonia. Per renal, less likely 
uremic, but if recurrent effusion as outpatient, would start 
more frequent HD for presumed uremic pericardial effusions.

#Anemia: Baseline Hgb in ___ in the ___. On admission, Hgb 
5.7 with at least confirmed site of bleeding within the 
pericardium. Patient was transfused 2uPRBC during hospital 
course.

# ESRD: ESRD ___ long-standing HTN on HD MWF through LUE 
AV-fistula since ___. Patient continued HD during hospital 
course. Was continued on cinacalcet and EPO during HD sessions.

#Dysphagia: Hospitalized ___ for dysphagia, with 
extensive workup unrevealing; diagnosed with cricopharyngeal 
hyperplasia and PEG placed. Increased home regimen of tube feeds 
to 5 cans a day

#Gastritis: Seen on EGD ___. Placed on PPI BID with plans 
for 10 week course. H pylori stool negative on prior admission. 
Hold home lansoprazole given not on formulary and was on 
pantoprazole. 

#Essential hypertension:
#Carotid bruit/Subclavian steal: In ___, carotid dopplers w/ 
e/o left subclavian steal. Vascular surgery consulted at last 
hospitalization, decided no need for intervention. Sent home on 
ASCVD treatment and BP control. Patient was continued on aspirin 
and atorvastatin. Patient was normotensive and labetalol was 
held.

#Back Pain: Chronic, stable. On Tylenol and doing ___ at rehab. 
Continued Tylenol in house. 

#Gout: H/o gout in left first metatarsal. Stable. Continued 
Allopurinol HD dosing

#Depression: Stable, started on Mirtazapine in ___. Continued 
home Mirtazapine 7.5 mg
 
TRANSITIONAL ISSUES
===========================
[] Labetalol held as patient normotensive. consider amlodipine 
if he becomes hypertensive
[] needs repeat echo in ___ weeks to reevaluate effusion
[] if has recurrent pericardial effusion, consider increasing 
frequency of HD session for presumed uremic pericarditis

New medications: none

Medications changed: none

Medications held: labetalol

# CODE:  full code per son HCP
# CONTACT/HCP:  ___ son and HCP ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Cinacalcet 30 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Labetalol 100 mg PO BID 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Multivitamins 1 TAB PO DAILY 
8. Thiamine 100 mg PO DAILY 
9. Allopurinol ___ mg PO DAILY 
10. Docusate Sodium 100 mg PO BID:PRN constipation 
11. Lansoprazole Oral Disintegrating Tab 30 mg Other BID 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Senna 17.2 mg PO QHS:PRN constipation 
14. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
15. Mirtazapine 7.5 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Allopurinol ___ mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Cinacalcet 30 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID:PRN constipation  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Lansoprazole Oral Disintegrating Tab 30 mg Other BID  
9.  Lidocaine 5% Patch 1 PTCH TD QAM  
10.  Mirtazapine 7.5 mg PO QHS  
11.  Multivitamins 1 TAB PO DAILY  
12.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
13.  Senna 17.2 mg PO QHS:PRN constipation  
14.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Pericardial Tamponade

SECONDARY:
ESRD on HD
Anemia
Dysphagia
Gastritis
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you.

Why you were admitted?
-You were admitted because you had low blood pressures at rehab. 
You were found to have fluid compressing your heart.

What we did for you?
-You had a drain placed, which removed the extra fluid 
surrounding your heart and you felt better.
-You continued to get dialysis while you were here in the 
hospital

What should you do when you leave the hospital?
-Please take all your medications and attend your follow up 
appointments.
-You will need a repeat echocardiogram to assess if there is 
still fluid surrounding your heart.

We wish you the best,
Your ___ team
 
Followup Instructions:
___